US05589473
To a solution of 268 mg of (4R)-13-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-11-methoxy-10-methyl-4-(3-methyl-1,2,4-oxadiazol-5-yl)-3,4,5,6,7,9-hexahydro-1H-8,2,5-benzoxathiaazacycloundecine-6,9-dione in 10 ml of methanol were added 100 mg of ammonium fluoride, and the mixture was stirred for 30 min at room temperature. The mixture was diluted with 50 ml of ethyl acetate and washed with 30 ml of water and with 30 ml of brine. The organic layer was dried over sodium sulfate and the solvent was evaporated in vacuo. The residue was dissolved in ethyl acetate, then hexane was added, and the white solid was isolated by filtration to give 178 mg of (4R)-13-hydroxy-11-methoxy-10-methyl-4-(3-methyl-1,2,4-oxadiazol-5-yl)-3,4,5,6,7,9-hexahydro-1H-8,2,5-benzoxathiaazacycloundecine-6,9-dione as a white powder, m.p. 194°-196° C.

reactant | (4R)-13-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-11-methoxy-10-methyl-4-(3-methyl-1,2,4-oxadiazol-5-yl)-3,4,5,6,7,9-hexahydro-1H-8,2,5-benzoxathiaazacycloundecine-6,9-dione | 268 mg | C[Si](OC1=CC(=C(C2=C1COC[C@@H](NC(CSC2=O)=O)C2=NC(=NO2)C)C)OC)(C(C(C)C)(C)C)C | C25H37N3O6SSi
reactant | ammonium fluoride | 100 mg | [F-].[NH4+]
solvent | methanol | 10 ml | CO | CH4O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (4R)-13-hydroxy-11-methoxy-10-methyl-4-(3-methyl-1,2,4-oxadiazol-5-yl)-3,4,5,6,7,9-hexahydro-1H-8,2,5-benzoxathiaazacycloundecine-6,9-dione | 178 mg | OC1=CC(=C(C2=C1COC[C@@H](NC(CSC2=O)=O)C2=NC(=NO2)C)C)OC | C17H19N3O6S
